US05858995
A mixture of 6-amino-1,2,3,4-tetrahydrodibenzofuran (230 mg), 2,5-hexanedione (145 mg) and conc. hydrochloric acid (1 drop) in ethanol (3 ml) was refluxed for 1 hour and poured into water. The mixture was neutralized with aqueous saturated sodium bicarbonate and extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from a mixture of ethanol and water to give 6-(2,5-dimethylpyrol-1-yl)-1,2,3,4-tetrahydrodibenzofuran (235 mg).

reactant | 6-amino-1,2,3,4-tetrahydrodibenzofuran | 230 mg | NC1=CC=CC=2C3=C(OC21)CCCC3 | C12H13NO
reactant | 2,5-hexanedione | 145 mg | CC(CCC(C)=O)=O | C6H10O2
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 6-(2,5-dimethylpyrol-1-yl)-1,2,3,4-tetrahydrodibenzofuran | 235 mg | CC=1N(C(=CC1)C)C1=CC=CC=2C3=C(OC21)CCCC3 | C18H19NO
